US04593118
Five grams of ethyl 2-acetamido-3-benzylaminobutyrate were dispersed in 20 ml of ethanol together with 0.5 of 5% palladium-on-carbon and shaken under 40 psi of hydrogen until hydrogen uptake had ceased. The mixture was filtered through Celite and evaporated to give a 100% yield of ethyl 2-acetamido-3-aminobutyrate.

reactant | ethyl 2-acetamido-3-benzylaminobutyrate | Five grams | C(C)(=O)NC(C(=O)OCC)C(C)NCC1=CC=CC=C1 | C15H22N2O3
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | palladium-on-carbon | [Pd] | Pd
product | ethyl 2-acetamido-3-aminobutyrate | 100% yield | C(C)(=O)NC(C(=O)OCC)C(C)N | C8H16N2O3
